US05602132
5 g of 2-(4-cyanophenyl)ethanol are introduced into 50 ml of dimethylforamide. 2.54 g of imidazole, 5,63 g of tert-butyldimethylsilyl chloride and a spatula tip-ful of dimethylaminopyridine are added. The reaction medium is left for 2 hours at room temperature and is then added to an ice-water mixture. The mixture is extracted with ethyl acetate and the extracts dried over anhydrous sodium sulphate. The product is purified by chromatography on a column of silica gel, using a mixture of cyclohexane and ethyl acetate (10:1 v/v) as eluent, to give 1-cyano-4-(tert -butyldimethylsilyloxyethyl)benzene.

reactant | 2-(4-cyanophenyl)ethanol | 5 g | C(#N)C1=CC=C(C=C1)CCO | C9H9NO
reactant | imidazole | 2.54 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 5,63 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylforamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-cyano-4-(tert -butyldimethylsilyloxyethyl)benzene | C(#N)C1=CC=C(C=C1)CCO[Si](C)(C)C(C)(C)C | C15H23NOSi
